US07687503B2
7.1. 1,1-dimethylethyl 4-(3-pyridyl)-1-piperazine-carboxylate
7.07 g (44.74 mmol) of 3-bromopyridine, 10 g (53.69 mmol) of 1,1-dimethylethyl 1-piperazinecarboxylate, 6.02 g (62.64 mmol) of sodium tert-butoxide and 0.836 g (1.34 mmol) of (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl) (BINAP) suspended in 100 ml of toluene are introduced under an inert atmosphere. 0.41 g (0.45 mmol) of [tris(dibenzylideneacetone)dipalladium] (Pd2(dba)3) is then added. The reaction mixture is then refluxed for 22 hours. The mixture is allowed to cool to room temperature, the salts are separated out by filtration through glass fiber and the filtrate is then concentrated under reduced pressure. The residue is taken up in 100 ml of ethyl acetate and 100 ml of water, the aqueous phase is separated out and extracted several times with ethyl acetate, the combined organic phases are washed with saturated aqueous sodium chloride solution and dried over sodium sulfate, and the filtrate is concentrated under reduced pressure. The residue thus obtained is purified by chromatography on silica gel, eluting with a 98/2 and then 95/5 mixture of dichloromethane and methanol. 9.80 g of product are obtained in the form of an oil that crystallizes at room temperature.

reactant | 3-bromopyridine | 44.74 mmol, 7.07 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 53.69 mmol, 10 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 62.64 mmol, 6.02 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.34 mmol, 0.836 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 1,1-dimethylethyl 4-(3-pyridyl)-1-piperazine-carboxylate | 9.80 g | N1=CC(=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O2
